US06369248B1
4-Hydroxy-pentanoic acid {4-[4-(4-hydroxy-pentanoylamino)-benzenesulfonyl]-phenyl}-amide
A solution of sodium borohydride in methanol was cooled to 5° C. A solution of 4-oxo-pentanoic acid {4-[4-(4-oxo-pentanoylamino)-benzenesulfonyl]-phenyl}-amide in THF was added and the resulting reaction mixture was stirred at room temperature. After workup and purification, the product was obtained as a colourless solid.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 4-oxo-pentanoic acid {4-[4-(4-oxo-pentanoylamino)-benzenesulfonyl]-phenyl}-amide | O=C(CCC(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(CCC(C)=O)=O)C | C22H24N2O6S
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Hydroxy-pentanoic acid {4-[4-(4-hydroxy-pentanoylamino)-benzenesulfonyl]-phenyl}-amide | OC(CCC(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(CCC(C)O)=O)C | C22H28N2O6S
